US04472433
A mixture of ethyl 2-[2-amino-3-(o-tolyloxy)phenyl]acetate (3.1 g.), sodium hydroxide (0.9 g.), water (20 ml.) and dioxane (20 ml.) was treated in a similar manner to that of Example 2-(2) to give crystals of 2-[2-amino-3-(o-tolyloxy)phenyl]acetic acid (2.0 g.). Thus obtained compound was dissolved in a solution of sodium bicarbonate (0.343 g.) in water (50 ml.) under heating and filtered. The filtrate was lyophilized to give sodium 2-[2-amino-3-(o-tolyloxy)phenyl]acetate (1.1 g.). mp >150° C.

reactant | ethyl 2-[2-amino-3-(o-tolyloxy)phenyl]acetate | 3.1 g | NC1=C(C=CC=C1OC1=C(C=CC=C1)C)CC(=O)OCC | C17H19NO3
reactant | sodium hydroxide | 0.9 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-[2-amino-3-(o-tolyloxy)phenyl]acetic acid | 2.0 g | NC1=C(C=CC=C1OC1=C(C=CC=C1)C)CC(=O)O | C15H15NO3
